US07842701B2
3-amino-2-[3-(hydroxymethyl)phenyl]-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one
A mixture of methyl 3-(3-amino-4-oxo-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-2-yl)benzoate (80 mg), lithium aluminum hydride (12 mg) and tetrahydrofuran (5 ml) was stirred at room temperature for 3 hours. Diethyl ether and then saturated aqueous sodium sulfate solution were added to the reaction mixture, and the organic layer was separated by decantation. The organic layer was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. Diisopropy ether was added to the residue. The precipitated solid was collected by filtration, washed with diisopropyl ether, and dried to obtain the target compound (60 mg).

reactant | methyl 3-(3-amino-4-oxo-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-2-yl)benzoate | 80 mg | NC=1N(N=C2C1C(NC=1C=CC=CC21)=O)C=2C=C(C(=O)OC)C=CC2 | C18H14N4O3
reactant | lithium aluminum hydride | 12 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 3-amino-2-[3-(hydroxymethyl)phenyl]-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 60 mg | NC=1N(N=C2C1C(NC=1C=CC=CC21)=O)C2=CC(=CC=C2)CO | C17H14N4O2
